US05807897
a. 3-Bromo-2,5-dimethoxybenzyl Alcohol
A solution of 8.27 gm (33.75 mmol) of 3-bromo-2,5-dimethoxy benzaldehyde* in 40 ml THF and 20 ml water was cooled to 10° C. and treated portionwise with 3.83 gm (101.2 mmol) NaBH4. Stirring was maintained at ambient temperature until tlc analysis (silica gel; 1:4 ethyl acetate:hexane) indicated the absence of starting aldehyde. After 30 minutes the solvent was removed in vacuo and the residue was portioned between ethyl acetate and water. After washing with brine and drying (Na2SO4), the ethyl acetate extract was concentrated in vacuo to yield 8.34 gm (99%) of a white solid, mp 59°-60° C.; tlc (cited), Rf 0.12.

reactant | 3-bromo-2,5-dimethoxy benzaldehyde | 33.75 mmol, 8.27 gm | BrC=1C(=C(C=O)C=C(C1)OC)OC | C9H9BrO3
reactant | water | 20 ml | O | H2O
reactant | NaBH4 | 101.2 mmol, 3.83 gm | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Bromo-2,5-dimethoxybenzyl Alcohol | 8.34 gm, 99% | BrC=1C(=C(CO)C=C(C1)OC)OC | C9H11BrO3
